US04920207
TRISPA (200 g, assay 95% 148.48×10-3 moles) and trityl chloride (5 g 179.52×10-4 moles) in dichloromethane (600 ml) was hydrogenated at ambient temperature and atmospheric pressure in the presence of palladium on carbon catalyst (10%, 2.5 g). Uptake of gas was complete in 12 hours and then Amberlite IRA-93(OH) resin (40 g) was added and the suspension was stirred at ambient for 12 hours. Removal of the solids and solvent gave a residue (209 g: assay, 4-PAS 35.1%, 6-PAS 16.7%, tritane 55.5%). Toluene (150 ml) was evaporated from the residue which was then heated with toluene (1000 ml) at 70° for 5 mins. before cooling the mixture to about 15°. The toluene supernatant was decanted from the thick syrup which was then re-extracted with toluene (500 ml) as before. The syrup was passed on to the migration step and the toluene extracts were concentrated to dryness, the residue was digested in hot methanol (500 ml) and the tritane was allowed to crystallise out overnight. Recovered tritane: 103.1 g, 86.7%, m.p. 93°-6°. In a repeat of this experiment the volume of the first toluene extract was reduced to 500 ml and the methanolic mother liquor from the first tritane recovery was used to digest the tritane from the second experiment. This afforded tritane 115.8 g, 97.5%, m.p. 93°-5°.

reactant | trityl chloride | 179.52×10-4 moles, 5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
catalyst | palladium on carbon | 2.5 g | [Pd] | Pd
product | tritane | 55.5% | C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16
